US05461161
2. Preparation Of 3-Amino -2-chloro-4-methoxypyridine
To a solution of 6.4 g (51 mmol) of 3-amino-4-methoxypyridine in 30 mL of 37 percent aqueous hydrochloric acid was slowly added 7.8 g of 30 percent aqueous hydrogen peroxide at room temperature with stirring. After 30 min this solution was slowly poured into 300 mL of saturated aqueous sodium bicarbonate and the resulting mixture was extracted with ether (3×200mL). The ethereal extracts were combined, dried over magnesium sulfate, and filtered, The filtrate was concentrated by evaporation under reduced pressure to obtain a light brown solid. This solid was purified by column chromatography (17:83 acetone:hexane) to obtain 6.54 g (81 percent of theory) of the title compound as colorless needles melting at 86°-87° C.

reactant | 3-amino-4-methoxypyridine | 51 mmol, 6.4 g | NC=1C=NC=CC1OC | C6H8N2O
reactant | hydrogen peroxide | 7.8 g | OO | H2O2
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 30 mL | Cl | ClH
product | 3-Amino -2-chloro-4-methoxypyridine | NC=1C(=NC=CC1OC)Cl | C6H7ClN2O
